2185-02-12 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - burst into an atrial tachycardia, likely AVNRT w rate 150s-170s
   overnight, dropping BPs to 70 systolic, patient asymptomatic. SVT was
   sustained, not responsive to IV metoprolol (given b/c of episode of
   Afib w RVR earlier in the day on the floor), not responsive to valsalva
   or carotid massage.  Given 6mg IV adenosine and broke rhythm, first
   into 60s, then 70s (did not stop heart)
   - started low dose metoprolol per oral
   - hypoglycemic episode this AM, BS 52
   - pericardial drain continued to ooze overnight, dark serosanguinous
   Allergies:
   Prevpac (Oral) (Lansoprazole/Amox Tr/Clarith)
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2185-2-11**] 11:50 PM
   Adenosine - [**2185-2-12**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-12**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 98 (88 - 168) bpm
   BP: 92/44(56) {68/21(35) - 115/58(71)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.7 kg (admission): 57.7 kg
             Total In:
                                                                    317 mL
                                                                    760 mL
   PO:
                                                                    150 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    167 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    220 mL
   Urine:
                                                                    425 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                    600 mL
   Balance:
                                                                   -708 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GENERAL: very thin woman, appears older than stated age, in NAD.
   Oriented x3. mildly anxious appearing.
   HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, moist mucus
   membranes.
   NECK: JVP not elevated
   CARDIAC: RR, normal S1, S2. Rate 90s. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Respirations unlabored, no accessory muscle use. lung fields
   clear, bronchial breath sounds in bases; no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, nontender, nondistended.
   EXTREMITIES: significant lower extremity edema bilaterally up to
   sacrum, increased.  Right groin site clean, dry, no hematomas or
   ecchymosis.
   SKIN: lower extremities lateral thighs bilaterally w blanching
   erythema; nonblanchable sacral erythema
   PULSES: left DP 1+, right DP dopplerable
   Labs / Radiology
   401 K/uL
   8.6 g/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   140 mEq/L
   26.9 %
   20.5 K/uL
        [image002.jpg]
                             [**2185-2-12**]  05:04 AM
   WBC
   20.5
   Hct
   26.9
   Plt
   401
   Cr
   1.0
   Other labs: Ca++:7.9 mg/dL, Mg++:2.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 61 year old woman with hx of IBD, recent DVT, who is
   transferred from Cardiology service to CCU for overnight monitoring s/p
   placement of pericardial drain for pericardial effusion/ tamponade.
   # Pericardial Effusion:
   Pericardial drain output >200cc overnight.  Studies on pericardial
   fluid pending but show WBC 111 Hct 12  Polys 60  Lymphs 30  Monos 10.
   Etiology most likely malignant or infectious.  Patient is
   immunosuppressed with remicaide treatment for IBD. PCP concerned about
   possible malignancy. Small stable nodule noted on kidney in Abd/Pelvic
   CT in [**Month (only) 2139**].  Chest CT during last hospitalization shows central
   lymph nodes
top normal in size
 in subcarinal and paraesophageal
   areas, ranging up to 13mm.
   - keep drain in for another until at least 4 hours after stops draining
   - repeat TTE today
   - continue colchine (for gout) which should help w pericarditic pain
   - monitor hemodynamic status
   - f/u studies on pericardial effusion fluid
   # Leukocytosis/Fever:
   Patient is immunosuppressed on Remicaide for IBD, so has potential for
   opportunistic infections.  Potential CMV infection. WBC count rose
   suddenly post-procedure, and patient continues to have low grade
   fevers.  She reports intermittent fevers for a long period of time and
   has been evaluated by Rheumatology in the past with negative workup.
   Patient had positive UA on presentation, but culture shows <10K
   organisms; was started on treatment with cipro/flagyl on floor which
   were discontinued. CXR negative for infiltrate. Ruled out for
   influenza. Recent CT abd is without evidence of colitis. Blood culture-
   no growth to date.
   -          C diff in setting of recent hospitalization w Abx tx,
   persistent (chronic and unchanged) diarrhea, and rapid rise in WBC
   -          Repeat CBC to make sure it was accurate and check diff
   -          Other stool cultures
   -          SPEP/UPEP
   # Deep Venous Thrombosis:
   Found to have Right leg DVT in [**2184-11-16**] with plan for 6 month
   anticoagulation. Initially started on coumadin but quickly switched to
   enoxaparin because INR was consistently very supratherapeutic secondary
   to poor nutritional status.  Most recently on 40mg enoxaparin [**Hospital1 7**], now
   held in the setting of pericardial effusion of unknown etiology.  Not
   currently on anticoagulation though she has a DVT.  No symptoms of SOB.
   -          held lovenox in setting of pericardial effusion
   -          restart lovenox while pericardial drain still in place today
   # Supraventricular Tachycardia:
   Episode of SVT, regular rhythm, likely AVNRT, last night w rates into
   170s with significant drop in BPs, though patient asymptomatic. SVT
   sustained, not responsive to valsalva or carotid massage. Responded to
   adenosine.
   - continue metoprolol low dose as tolerated by BP
   # Anemia
   Stable Hct at 25-26. Patient continues to drain out hematogenous
   pericardial fluid, now more slowly.
   - cont to monitor
   # Hypoglycemia
   Episode this AM. Not on insulin. Consider adrenal insufficiency,
   insulin-producing or utilizing tumor.   Not likely due to decreased
   hepatic or renal clearance.  LFTs and renal function normal.
   - AM cortisol
   # Atrial Fibrillation:
   Patient had episode of Afib on floor, which she has apparently had in
   past, treated with IV metoprolol without any drop in blood pressure.
   - monitoring on telemetry
   # Crohns disease:
   Patient with chronic diarrhea, guaiac negative. On remicade dosed every
   8 weeks. Colonoscopy last done in [**2184-3-17**].  Started on chronic TPN
   about 1 month ago for poor po nutrition.  Will need long term nutrition
   plan.
   - holding TPN
   - Mesalamine 1200 mg Tablet, three times daily
   # Lower Extremity Edema:
   Patient has had significant leg and sacral edema chronically.  Not much
   edema in upper body but she does have persistent pleural effusions
   which may be of the same etiology.  Albumin is low and nutritional
   status very poor.  Fluid overload may be worsened by TPN use.  She has
   been on and off various doses of lasix with little effect and has no
   history of congestive heart failure.  Consider also something that may
   be compressing her IVC, such as malignancy or enlarge lymph nodes.
   Patient does have DVT in right lower extremity as well.
   - nutritional status
   -  primary team should consider further malignancy workup
   # Acute renal insufficiency:
   Cr elevated and stable at 1.1 from baseline of 0.7. Improved earlier
   with fluids.
   - monitor creatinine
   # Nutrition:
   Patient has been on TPN for about 1 month, felt to be contributing to
   volume overload. She can eat per oral, but not significant amount of
   calories for sustainable nutrition.
   - hold TPN
   - po nutrition
   # Hypothyroidism: Recently diagnosed.
   - Continue levothyroxine.
   # Hx Gout/Pseudogout:
   - continue allopurinol at renal dose
   - continue colchicine
   # Depression/Anxiety: not currently on meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-2-11**] 06:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:CCU

2185-02-13 07:01:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname **] is a 61 year old woman with hx of IBD,
   recent DVT, who is transferred from Cardiology service to CCU for
   overnight monitoring s/p placement of pericardial drain for pericardial
   effusion/ tamponade.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2185-2-12**] 09:00 AM
   - gave some albumin for low BP
   - afib to 130s, pressures relatively stable, spontaneously converted to
   NSR
   - started phenylephrine for MAPs in 40s, SBP in 70, not apparently
   responsive to fluid.
   - transfused 1u prbc for hct 21, thought to be dilutional but patient
   needed oncotic pressure anyways
   Allergies:
   Prevpac (Oral) (Lansoprazole/Amox Tr/Clarith)
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-13**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 88 (66 - 120) bpm
   BP: 112/52(65) {74/30(42) - 121/59(73)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.7 kg (admission): 57.7 kg
           Total In:
                                                                  2,938 mL
                                                                    408 mL
   PO:
                                                                  1,190 mL
           TF:
   IVF:
                                                                    763 mL
                                                                    168 mL
   Blood products:
                                                                    935 mL
                                                                    240 mL
   Total out:
                                                                    871 mL
                                                                    640 mL
   Urine:
                                                                    571 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                  2,067 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   324 K/uL
   8.5 g/dL
   110 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.6 mEq/L
   17 mg/dL
   107 mEq/L
   138 mEq/L
   26.5 %
   19.2 K/uL
        [image002.jpg]
                             [**2185-2-12**]  05:04 AM
                             [**2185-2-12**]  09:43 AM
                             [**2185-2-12**]  08:22 PM
                             [**2185-2-12**]  08:53 PM
                             [**2185-2-13**]  05:03 AM
   WBC
   20.5
   22.1
   16.3
   19.2
   Hct
   26.9
   26.3
   21.3
   26.5
   Plt
   [**Telephone/Fax (3) 13694**]24
   Cr
   1.0
   1.3
   1.1
   Glucose
   37
   110
   110
   Other labs: PT / PTT / INR:14.1/44.1/1.2, ALT / AST:[**8-2**], Alk Phos / T
   Bili:98/0.4, Amylase / Lipase:/22, Differential-Neuts:91.8 %, Lymph:3.5
   %, Mono:4.3 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.1 g/dL,
   LDH:173 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL
   Imaging: TTE: Left ventricular wall thickness, cavity size, and global
   systolic function are normal (LVEF>55%). Right ventricular chamber size
   and free wall motion are normal. The aortic valve leaflets (?#) appear
   structurally normal with good leaflet excursion. No aortic
   regurgitation is seen. The mitral valve appears structurally normal
   with trivial mitral regurgitation. There is a small-moderate partially
   echo filled circumferential pericardial effusion without right atrial
   or right ventricular diastolic collapse.
   CXR: Placement of pericardial drain with unchanged or minimally
   increased cardiac silhouette size reflecting the known pericardial
   fluid. Slightly increased, moderate-sized left pleural effusion.
   Microbiology: [**2185-2-12**]  STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER
   CULTURE-PENDING; OVA + PARASITES-PENDING; Cryptosporidium/Giardia
   (DFA)-PENDING;
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL INPATIENT
   [**2185-2-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2185-2-11**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2185-2-11**]  FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid Culture in
   Bottles-PRELIMINARY INPATIENT
   [**2185-2-11**]  FLUID,OTHER GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY;
   ANAEROBIC CULTURE-PRELIMINARY; ACID FAST SMEAR-FINAL; ACID FAST
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY INPATIENT
   [**2185-2-10**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2185-2-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   Ms. [**Known lastname **] is a 61 year old woman with hx of IBD, recent DVT, who is
   transferred from Cardiology service to CCU for overnight monitoring s/p
   placement of pericardial drain for pericardial effusion/ tamponade.
   # Pericardial Effusion:
   Pericardial drain output 300cc yesterday. 100cc overnight.  Studies on
   pericardial fluid pending but show WBC 111 Hct 12  Polys 60  Lymphs 30
   Monos 10.  Etiology most likely malignant or infectious.  Patient is
   immunosuppressed with remicaide treatment for IBD. PCP concerned about
   possible malignancy. Small stable nodule noted on kidney in Abd/Pelvic
   CT in [**Month (only) 2139**].  Chest CT during last hospitalization shows central
   lymph nodes
top normal in size
 in subcarinal and paraesophageal
   areas, ranging up to 13mm.
   - continue drain for now until TTE - consider pulling drain
   - repeat TTE today
   - continue colchine (for gout) which should help w pericarditic pain
   - monitor hemodynamic status
   - f/u studies on pericardial effusion fluid
   # Hypotension:
   Initially thought to be secondary to low intravascular volume. Was
   given albumin bolus with a marginal response in blood pressure. Urine
   output was decreased. Patient continued to mentate well. Decided to
   start phenylephrine for pressure support. Increase in blood pressure
   with increase in urine output as well. No signs of tamponade.
   - wean phenylephrine as tolerated
   - continue infection workup
   - monitor for tamponade
   - hold beta blocker for now
   # Leukocytosis/Fever:
   Patient is immunosuppressed on Remicaide for IBD, so has potential for
   opportunistic infections.  Potential CMV infection. WBC count rose
   suddenly post-procedure, and patient continues to have low grade
   fevers.  She reports intermittent fevers for a long period of time and
   has been evaluated by Rheumatology in the past with negative workup.
   Patient had positive UA on presentation, but culture shows <10K
   organisms; was started on treatment with cipro/flagyl on floor which
   were discontinued. CXR negative for infiltrate. Ruled out for
   influenza. Recent CT abd is without evidence of colitis. Blood culture-
   no growth to date. Maybe malignancy causing fever.
   - check C diff in setting of recent hospitalization w Abx tx,
   persistent (chronic and unchanged) diarrhea, and rapid rise in WBC
   - Repeat CBC to make sure it was accurate and check diff
   - Other stool cultures
   - SPEP/UPEP
   - blood, urine cultures
   # Anemia:
   Stable hct at 25. Decreased to 21 yesterday in setting of fluids. Was
   guaiac negative on floor. No evidence of bleed in GI or significant
   bleed in pericardial fluid. Transfused 1u pRBC for hct with response.
   No other symptoms.
   - monitor hct
   - monitor for bleeds
   - guaiac stools
   # Deep Venous Thrombosis:
   Found to have Right leg DVT in [**2184-11-16**] with plan for 6 month
   anticoagulation. Initially started on coumadin but quickly switched to
   enoxaparin because INR was consistently very supratherapeutic secondary
   to poor nutritional status.  Most recently on 40mg enoxaparin [**Hospital1 7**].  No
   symptoms of SOB. Restarted heparin gtt will monitor drain output.
   - continue heparin gtt for now
   - monitor respiratory status
   # Supraventricular Tachycardia:
   Episode of SVT, regular rhythm, likely AVNRT w rates into 170s with
   significant drop in BPs, though patient asymptomatic. SVT sustained,
   not responsive to valsalva or carotid massage. Responded to adenosine.
   Also had atrial fibrillation yesterday. Spontaneously converted to NSR.
   - metoprolol held due to hypotension
   - consider amio if recurs
   # Hypoglycemia
   Not on insulin. Consider adrenal insufficiency, insulin-producing or
   utilizing tumor.   Not likely due to decreased hepatic or renal
   clearance.  LFTs and renal function normal.
   - AM cortisol
   # Crohns disease:
   Patient with chronic diarrhea, guaiac negative. On remicade dosed every
   8 weeks. Colonoscopy last done in [**2184-3-17**].  Started on chronic TPN
   about 1 month ago for poor po nutrition.  Will need long term nutrition
   plan.
   - holding TPN
   - Mesalamine 1200 mg Tablet, three times daily - consider discontinuing
   mesalamine
   - continue infliximab per schedule
   - GI consulted in attempt to find unifying diagnosis
   # Lower Extremity Edema:
   Patient has had significant leg and sacral edema chronically.  Not much
   edema in upper body but she does have persistent pleural effusions
   which may be of the same etiology.  Albumin is low and nutritional
   status very poor.  Fluid overload may be worsened by TPN use.  She has
   been on and off various doses of lasix with little effect and has no
   history of congestive heart failure.  Consider also something that may
   be compressing her IVC, such as malignancy or enlarge lymph nodes.
   Patient does have DVT in right lower extremity as well.
   - nutritional status
   - primary team should consider further malignancy workup
   # Acute renal insufficiency:
   Cr elevated and stable at 1.1 from baseline of 0.7. Improved earlier
   with fluids.
   - monitor creatinine
    # Nutrition:
   Patient has been on TPN for about 1 month, felt to be contributing to
   volume overload. She can eat per oral, but not significant amount of
   calories for sustainable nutrition.
   - hold TPN
   - po nutrition
   # Hypothyroidism: Recently diagnosed.
   - Continue levothyroxine.
   # Hx Gout/Pseudogout:
   - continue allopurinol at renal dose
   - continue colchicine
   # Depression/Anxiety: not currently on meds
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:
   Lines:
   PICC Line - [**2185-2-11**] 06:19 PM
   20 Gauge - [**2185-2-12**] 10:54 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2185-02-14 06:59:00 Physician Resident Progress Note
24 Hour Events:
    - heparin stopped secondary to bloody pericardial drainage.
   - amiodarone stopped
   - abdominal ultrasound performed, which showed no evidence of biliary
   pathology.
   - GI stated that crohn's or CMV in gut unlikely given recent clean
   colonoscopy.  Rec holding mesalamine.
   - pericardial drain did not put out further during the day, heparin
   re-started.
   - phenylephrine and amiodarone stopped.
   Allergies:
   Prevpac (Oral) (Lansoprazole/Amox Tr/Clarith)
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-14**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 96 (86 - 106) bpm
   BP: 108/55(67) {82/35(46) - 118/63(74)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.7 kg (admission): 57.7 kg
             Total In:
                                                                  1,255 mL
                                                                     76 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    295 mL
                                                                     76 mL
   Blood products:
                                                                    240 mL
   Total out:
                                                                  2,036 mL
                                                                    369 mL
   Urine:
                                                                  1,236 mL
                                                                    219 mL
   NG:
   Stool:
                                                                    700 mL
                                                                    150 mL
   Drains:
                                                                    100 mL
   Balance:
                                                                   -781 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   8.0 g/dL
   77 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.6
   16 mg/dL
   110 mEq/L
   140 mEq/L
   25.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2185-2-12**]  05:04 AM
                             [**2185-2-12**]  09:43 AM
                             [**2185-2-12**]  08:22 PM
                             [**2185-2-12**]  08:53 PM
                             [**2185-2-13**]  05:03 AM
                             [**2185-2-13**]  05:04 PM
                             [**2185-2-14**]  05:59 AM
   WBC
   20.5
   22.1
   16.3
   19.2
   10.7
   9.8
   Hct
   26.9
   26.3
   21.3
   26.5
   25.5
   25.4
   Plt
   [**Telephone/Fax (3) 13694**]24
   279
   267
   Cr
   1.0
   1.3
   1.1
   Glucose
   37
   110
   110
   Other labs: PTT 54.1 Mg++:1.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 61 year old woman with hx of IBD, recent DVT, who is
   transferred from Cardiology service to CCU for monitoring s/p placement
   of pericardial drain for pericardial effusion/ tamponade.
   # Pericardial Effusion:
   Pericardial drain output 100cc yesterday; no drainage overnight.
   Studies on pericardial fluid pending but show WBC 111 Hct 12  Polys 60
   Lymphs 30  Monos 10.  Etiology most likely malignant or infectious.
   Patient is immunosuppressed with remicaide treatment for IBD. PCP
   concerned about possible malignancy. Small stable nodule noted on
   kidney in Abd/Pelvic CT in [**Month (only) 2139**].  Chest CT during last
   hospitalization shows central lymph nodes
top normal in size
   subcarinal and paraesophageal areas, ranging up to 13mm.
   - f/u results of repeat TTE
   - if TTE shows no increasing effusion, can pull pericardial drain
   - continue colchine (for gout) which should help w/ pericarditic pain
   - monitor hemodynamic status
   - f/u studies on pericardial effusion fluid
   - continue heparin gtt for now, if drain output increased consider
   discontinuing heparin
   # Hypotension:
   Initially thought to be secondary to low intravascular volume. Was
   given albumin bolus with a marginal response in blood pressure. Urine
   output was decreased. Patient continued to mentate well. Decided to
   start phenylephrine for pressure support, which has now since been
   d/c
ed. No signs of tamponade now.  Etiology of episodes of hypotension
   not entirely clear.  Infectious w/u has not shown anything as of yet.
   Cortisol was elevated on lab work, ruling out adrenal insufficiency.
   - continue infection workup
   - monitor for tamponade
   - holding beta blocker
   # Leukocytosis/Fever:
   Patient is immunosuppressed on Remicaide for IBD, so has potential for
   opportunistic infections.  Potential CMV infection. WBC count rose
   suddenly post-procedure, and patient continues to have low grade
   fevers.  She reports intermittent fevers for a long period of time and
   has been evaluated by Rheumatology in the past with negative workup.
   Patient had positive UA on presentation, but culture shows <10K
   organisms; was started on treatment with cipro/flagyl on floor which
   were discontinued. CXR negative for infiltrate. Ruled out for
   influenza. Recent CT abd is without evidence of colitis. Blood culture-
   no growth to date. Maybe malignancy causing fever.  Pt is afebrile this
   morning and WBC is trending down.
   - can consider ID consult if pt develops more fevers, leukocytosis
   - follow up stool culture results
   - f/u blood and urine cultures
   - trend WBC, T
   # Anemia:
   Stable hct at 25. Decreased to 21 2 days ago in setting of fluids. Was
   guaiac negative on floor. No evidence of bleed in GI or significant
   bleed in pericardial fluid. Transfused 1u pRBC for hct with response.
   No other symptoms.  Hct stable this morning.
   - monitor hct
   - monitor for bleeds
   - guaiac stools
   # Deep Venous Thrombosis:
   Found to have Right leg DVT in [**2184-11-16**] with plan for 6 month
   anticoagulation. Initially started on coumadin but quickly switched to
   enoxaparin because INR was consistently very supratherapeutic secondary
   to poor nutritional status.  Most recently on 40mg enoxaparin [**Hospital1 7**].  No
   symptoms of SOB. Currently on heparin gtt.
   - continue heparin gtt for now
   - monitor respiratory status
   # Supraventricular Tachycardia:
   Episode of SVT, regular rhythm, likely AVNRT w rates into 170s with
   significant drop in BPs, though patient asymptomatic. SVT sustained,
   not responsive to valsalva or carotid massage. Responded to adenosine.
   Also had atrial fibrillation. Spontaneously converted to NSR. Pt has
   been in SR for the past 24 hours.
   - metoprolol held due to hypotension
   - consider amio if recurs
   - continue to monitor telemetry
   # Crohns disease:
   Patient with chronic diarrhea, guaiac negative. On remicade dosed every
   8 weeks. Colonoscopy last done in [**2184-3-17**].  Started on chronic TPN
   about 1 month ago for poor po nutrition.  Will need long term nutrition
   plan. Currently getting calorie counts.
   - holding TPN, will f/u calorie counts
   - d/c mesalamine per GI recs
 likely wasn
t helping
   - continue infliximab per schedule
   - f/u additional GI recs
   # Hypoglycemia
   Not on insulin. Consider adrenal insufficiency, insulin-producing or
   utilizing tumor.   Not likely due to decreased hepatic or renal
   clearance.  LFTs and renal function normal.  Cortisol was elevated.
   - continue to monitor blood sugar levels
   # Lower Extremity Edema:
   Patient has had significant leg and sacral edema chronically.  Not much
   edema in upper body but she does have persistent pleural effusions
   which may be of the same etiology.  Albumin is low and nutritional
   status very poor.  Fluid overload may be worsened by TPN use.  She has
   been on and off various doses of lasix with little effect and has no
   history of congestive heart failure.  Consider also something that may
   be compressing her IVC, such as malignancy or enlarge lymph nodes.
   Patient does have DVT in right lower extremity as well.
   - continue to monitor nutritional status
   - primary team should consider further malignancy workup
   # Acute renal insufficiency:
   Cr elevated and stable at 1.0 from baseline of 0.7. Improved earlier
   with fluids.
   - continue to trend creatinine
    # Nutrition:
   Patient has been on TPN for about 1 month, felt to be contributing to
   volume overload. She can eat per oral, but not significant amount of
   calories for sustainable nutrition.  Currently getting calorie counts.
   - holding TPN; following calorie counts
   - po nutrition
   # Hypothyroidism: Recently diagnosed.
   - Continue levothyroxine.
   # Hx Gout/Pseudogout:
   - continue allopurinol at renal dose
   - continue colchicine
   # Depression/Anxiety: not currently on meds
   ICU Care
   Nutrition: Regular diet with ensure supplements
   Glycemic Control:
   Lines:
   PICC Line - [**2185-2-11**] 06:19 PM
   20 Gauge - [**2185-2-12**] 10:54 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely call out to floor after pericardial drain is pulled
   (either today or tomorrow)

2185-02-15 07:39:00 Physician Resident Progress Note
Chief Complaint: chest pain [**1-18**] pericardial effusion
   24 Hour Events:
   -TTE showed very small echo-dense pericardial effusion, consistent with
   blood, inflammation or other cellular elements with some stranding c/w
   organization; there is abnormal septal motion that may reflect early
   constriction
   -GI recs: agree with d/c mesalamine; due for next dose of Remicade in
   early [**Month (only) 572**] - may need to hold; agree wtih calorie count + TPN; patient
   should follow up with Dr. [**Last Name (STitle) 4841**] as outpatient; signing off
   -p.m. Hct stable
   -had 800 cc of diarrhea at around 6 p.m.
   Allergies:
   Prevpac (Oral) (Lansoprazole/Amox Tr/Clarith)
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-15**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 73 (73 - 98) bpm
   BP: 107/61(71) {84/43(53) - 116/63(76)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.7 kg (admission): 57.7 kg
             Total In:
                                                                    883 mL
                                                                    285 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    283 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,009 mL
                                                                    865 mL
   Urine:
                                                                  1,059 mL
                                                                    615 mL
   NG:
   Stool:
                                                                    950 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,126 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   RRR, no MRG, S1 S2 clear
   RESP mildly rhonchorous in mid lung fields
   Drain site with dressing in place, CDI
   TPN site no erythema, swelling, induration
   1+ edema in right LE,
   DP, PT pulses palpable, warm, well perfused.
   Labs / Radiology
   Echo
   Left ventricular wall thickness, cavity size, and global systolic
   function are normal (LVEF>55%). Right ventricular chamber size and free
   wall motion are normal. There is abnormal septal motion/position. There
   is a very small pericardial effusion around the apex and anterior to
   the right ventricle and right atrium. The effusion is echo dense,
   consistent with blood, inflammation or other cellular elements with
   some stranding c/w organization.
   Compared with the prior study (images reviewed) of [**2185-2-13**], the size
   of the effusion is similar. There is now abnormal septal motion that
   may reflect early constriction.
   292 K/uL
   8.1 g/dL
   78 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   16 mg/dL
   112 mEq/L
   143 mEq/L
   25.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2185-2-12**]  05:04 AM
                             [**2185-2-12**]  09:43 AM
                             [**2185-2-12**]  08:22 PM
                             [**2185-2-12**]  08:53 PM
                             [**2185-2-13**]  05:03 AM
                             [**2185-2-13**]  05:04 PM
                             [**2185-2-14**]  05:59 AM
                             [**2185-2-14**]  03:59 PM
                             [**2185-2-15**]  05:02 AM
   WBC
   20.5
   22.1
   16.3
   19.2
   10.7
   9.8
   8.4
   Hct
   26.9
   26.3
   21.3
   26.5
   25.5
   25.4
   26.5
   25.2
   Plt
   [**Telephone/Fax (3) 13694**]24
   279
   267
   292
   Cr
   1.0
   1.3
   1.1
   1.0
   1.0
   Glucose
   37
   110
   110
   77
   78
   Other labs: PT / PTT / INR:14.8/67.2/1.3, ALT / AST:[**8-2**], Alk Phos / T
   Bili:98/0.4, Amylase / Lipase:/22, Differential-Neuts:91.8 %, Lymph:3.5
   %, Mono:4.3 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.1 g/dL,
   LDH:173 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 PERICARDIAL EFFUSION WITH TAMPONADE
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   Ms. [**Known lastname **] is a 61 year old woman with hx of IBD, recent DVT, who is
   transferred from Cardiology service to CCU for monitoring s/p placement
   of pericardial drain for pericardial effusion/ tamponade.
   # Pericardial Effusion:
   Pericardial drain output 100cc yesterday; no drainage overnight.
   Studies on pericardial fluid pending but show WBC 111 Hct 12  Polys 60
   Lymphs 30  Monos 10.  Etiology most likely malignant or infectious.
   Patient is immunosuppressed with remicaide treatment for IBD. PCP
   concerned about possible malignancy. Small stable nodule noted on
   kidney in Abd/Pelvic CT in [**Month (only) 2139**].  Chest CT during last
   hospitalization shows central lymph nodes
top normal in size
   subcarinal and paraesophageal areas, ranging up to 13mm.
   - f/u results of repeat TTE
   - if TTE shows no increasing effusion, can pull pericardial drain
   - continue colchine (for gout) which should help w/ pericarditic pain
   - monitor hemodynamic status
   - f/u studies on pericardial effusion fluid
   - continue heparin gtt for now, if drain output increased consider
   discontinuing heparin
   # Hypotension:
   Initially thought to be secondary to low intravascular volume. Was
   given albumin bolus with a marginal response in blood pressure. Urine
   output was decreased. Patient continued to mentate well. Decided to
   start phenylephrine for pressure support, which has now since been
   d/c
ed. No signs of tamponade now.  Etiology of episodes of hypotension
   not entirely clear.  Infectious w/u has not shown anything as of yet.
   Cortisol was elevated on lab work, ruling out adrenal insufficiency.
   - continue infection workup
   - monitor for tamponade
   - holding beta blocker
   # Leukocytosis/Fever:
   Patient is immunosuppressed on Remicaide for IBD, so has potential for
   opportunistic infections.  Potential CMV infection. WBC count rose
   suddenly post-procedure, and patient continues to have low grade
   fevers.  She reports intermittent fevers for a long period of time and
   has been evaluated by Rheumatology in the past with negative workup.
   Patient had positive UA on presentation, but culture shows <10K
   organisms; was started on treatment with cipro/flagyl on floor which
   were discontinued. CXR negative for infiltrate. Ruled out for
   influenza. Recent CT abd is without evidence of colitis. Blood culture-
   no growth to date. Maybe malignancy causing fever.  Pt is afebrile this
   morning and WBC is trending down.
   - can consider ID consult if pt develops more fevers, leukocytosis
   - follow up stool culture results
   - f/u blood and urine cultures
   - trend WBC, T
   # Anemia:
   Stable hct at 25. Decreased to 21 2 days ago in setting of fluids. Was
   guaiac negative on floor. No evidence of bleed in GI or significant
   bleed in pericardial fluid. Transfused 1u pRBC for hct with response.
   No other symptoms.  Hct stable this morning.
   - monitor hct
   - monitor for bleeds
   - guaiac stools
   # Deep Venous Thrombosis:
   Found to have Right leg DVT in [**2184-11-16**] with plan for 6 month
   anticoagulation. Initially started on coumadin but quickly switched to
   enoxaparin because INR was consistently very supratherapeutic secondary
   to poor nutritional status.  Most recently on 40mg enoxaparin [**Hospital1 7**].  No
   symptoms of SOB. Currently on heparin gtt.
   - continue heparin gtt for now
   - monitor respiratory status
   # Supraventricular Tachycardia:
   Episode of SVT, regular rhythm, likely AVNRT w rates into 170s with
   significant drop in BPs, though patient asymptomatic. SVT sustained,
   not responsive to valsalva or carotid massage. Responded to adenosine.
   Also had atrial fibrillation. Spontaneously converted to NSR. Pt has
   been in SR for the past 24 hours.
   - metoprolol held due to hypotension
   - consider amio if recurs
   - continue to monitor telemetry
   # Crohns disease:
   Patient with chronic diarrhea, guaiac negative. On remicade dosed every
   8 weeks. Colonoscopy last done in [**2184-3-17**].  Started on chronic TPN
   about 1 month ago for poor po nutrition.  Will need long term nutrition
   plan. Currently getting calorie counts.
   - holding TPN, will f/u calorie counts
   - d/c mesalamine per GI recs
 likely wasn
t helping
   - continue infliximab per schedule
   - f/u additional GI recs
   # Hypoglycemia
   Not on insulin. Consider adrenal insufficiency, insulin-producing or
   utilizing tumor.   Not likely due to decreased hepatic or renal
   clearance.  LFTs and renal function normal.  Cortisol was elevated.
   - continue to monitor blood sugar levels
   # Lower Extremity Edema:
   Patient has had significant leg and sacral edema chronically.  Not much
   edema in upper body but she does have persistent pleural effusions
   which may be of the same etiology.  Albumin is low and nutritional
   status very poor.  Fluid overload may be worsened by TPN use.  She has
   been on and off various doses of lasix with little effect and has no
   history of congestive heart failure.  Consider also something that may
   be compressing her IVC, such as malignancy or enlarge lymph nodes.
   Patient does have DVT in right lower extremity as well.
   - continue to monitor nutritional status
   - primary team should consider further malignancy workup
   # Acute renal insufficiency:
   Cr elevated and stable at 1.0 from baseline of 0.7. Improved earlier
   with fluids.
   - continue to trend creatinine
    # Nutrition:
   Patient has been on TPN for about 1 month, felt to be contributing to
   volume overload. She can eat per oral, but not significant amount of
   calories for sustainable nutrition.  Currently getting calorie counts.
   - holding TPN; following calorie counts
   - po nutrition
   # Hypothyroidism: Recently diagnosed.
   - Continue levothyroxine.
   # Hx Gout/Pseudogout:
   - continue allopurinol at renal dose
   - continue colchicine
   # Depression/Anxiety: not currently on meds
   ICU Care
   Nutrition: Regular diet with ensure supplements
   Glycemic Control:
   Lines:
   PICC Line - [**2185-2-11**] 06:19 PM
   20 Gauge - [**2185-2-12**] 10:54 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely call out to floor after pericardial drain is pulled
   (either today or tomorrow)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-2-11**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: